US08614206B2
Following WO 2007/99326, to a 500 mL 3-neck-round bottom flask was added 1-methyl-4-nitro-1H-pyrazole (4.30 g, 33.8 mmol) and THF (12 mL). The mixture was cooled to −78° C. and lithium hexamethyldisilazide in THF (1M, 88.4 mL, 90 mmol) was added dropwise via an addition funnel over 20 min. The brown mixture was stirred for 30 min and warmed to −45° C. over 30 min. The mixture was cooled back down to −78° C. and hexachloroethane (10.5 g, 44.2 mmol) dissolved in THF (20 mL) was added via an addition funnel over 15 min. The mixture was stirred for 2.5 h, warmed from −78° C. to −40° C. and the reaction was monitored by LCMS. Upon completion of the reaction, the reaction was quenched with a solution of saturated NH4Cl (150 mL), and ethyl acetate (100 mL) was added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL). The combined organic layer was washed with water (150 mL), dried over Na2SO4 and the organic solvent was distilled off. The crude product was purified via flash chromatography (CH2Cl2/7% MeOH) to yield 5-chloro-1-methyl-4-nitro-1H-pyrazole as a white solid (1.40 g, 20%). 1H NMR (400 MHz, CDCl3) δ 8.13 (s, 1H), 3.92 (s, 3H); ESIMS m/z=162.0 (M+1)

reactant | 1-methyl-4-nitro-1H-pyrazole | 33.8 mmol, 4.30 g | CN1N=CC(=C1)[N+](=O)[O-] | C4H5N3O2
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | hexachloroethane | 44.2 mmol, 10.5 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mmol, 1M, 88.4 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 1.40 g, 20% | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
